US07833939B2
19.3 g of sodium hydrosulfide (purity: 70%, 344.6 mmoles) was added to a solution of 21.3 g (120.3 mmoles) of 5,5-dimethyl-3-methylsulfonyl-2-isoxazoline dissolved in 200 ml of N,N-dimethylformamide. The mixture was stirred for 1 hour. Thereto were added 16.7 g (121.0 mmoles) of anhydrous potassium carbonate and 18.6 g (120.7 mmoles) of Rongalit. The resulting mixture was stirred for 2 hours. Thereto was added, with ice-cooling, 31.4 g (120.3 mmoles) of 4-bromomethyl-5-fluoro-1-methyl-3-trifluoromethyl-1H-pyrazole. The resulting mixture was stirred at room temperature for 2 hours to give rise to a reaction. After confirmation of the completion of the reaction, the reaction mixture was poured into water, followed by extraction with ethyl acetate. The resulting organic layer was washed with water and an aqueous sodium chloride solution and then dried over anhydrous magnesium sulfate. The resulting solution was subjected to vacuum distillation to remove the solvent contained therein, to obtain 29.0 g (yield: 90.3%) of 5,5-dimethyl-3-(5-fluoro-1-methyl-3-trifluoromethyl-1H-pyrazol-4-ylmethylthio)-2-isoxazoline as a yellow oily substance.

reactant | sodium hydrosulfide | 344.6 mmoles, 19.3 g | [SH-].[Na+]
reactant | 5,5-dimethyl-3-methylsulfonyl-2-isoxazoline | 120.3 mmoles, 21.3 g | CC1(CC(=NO1)S(=O)(=O)C)C | C6H11NO3S
reactant | potassium carbonate | 121.0 mmoles, 16.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | Rongalit | 120.7 mmoles, 18.6 g | C(O)S(=O)[O-].[Na+]
reactant | 4-bromomethyl-5-fluoro-1-methyl-3-trifluoromethyl-1H-pyrazole | 120.3 mmoles, 31.4 g | BrCC=1C(=NN(C1F)C)C(F)(F)F | C6H5BrF4N2
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 5,5-dimethyl-3-(5-fluoro-1-methyl-3-trifluoromethyl-1H-pyrazol-4-ylmethylthio)-2-isoxazoline | 29.0 g, yield: 90.3% | CC1(CC(=NO1)SCC=1C(=NN(C1F)C)C(F)(F)F)C | C11H13F4N3OS
